US07989441B2
To a solution of (S)-hexahydro pyridazine-3-carboxylic acid phenethyl-amide (376 mg, 1.59 mmol) and Et3N (0.66 mL) in CH2Cl2 (10 mL) at 0° C., is added benzylchloroformate (270 mg, 1.59 mmol) dropwise. After stirring at −5° C. for 1.5 hours, the reaction mixture is diluted with CH2Cl2 (50 mL) and washed with 10 mL of water. The organic layer is dried over Na2SO4 and concentrated to give (S)-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester (580 mg) as pale gum without further purification for next step reaction. (NMR and MS data confirmed, U-3133-59).

reactant | (S)-hexahydro pyridazine-3-carboxylic acid phenethyl-amide | 1.59 mmol, 376 mg | C(CC1=CC=CC=C1)NC(=O)[C@H]1NNCCC1 | C13H19N3O
reactant | Et3N | 0.66 mL | CCN(CC)CC | C6H15N
reactant | benzylchloroformate | 1.59 mmol, 270 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester | 580 mg | C(C1=CC=CC=C1)OC(=O)N1N[C@@H](CCC1)C(NCCC1=CC=CC=C1)=O | C21H25N3O3
